US06713485B2
N-[4-(benzyloxy)phenyl]-6-[4-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
Prepared according to Procedure D from 5-(4-{4-benzyloxyanilino}-6-quinazolinyl)-furan-3-carbaldehyde (0.6 equiv) and 2-methanesulphonyl-ethylamine (1 equiv). 1HNMR 400 MHz, d6DMSO 9.51 (bs, 2H), 9.11 (s, 1H), 8.79 (s, 1H), 8.29 (d, 1H), 8.06 (s, 1H), 7.90 (d, 1H), 7.60 (d, 2H), 7.5-7.3 (m, 5H), 7.11 (d, 2H), 5.14 (s, 2H), 4.14 bs, 2H), 3.6-3.5 (m, 3H), 3.12 (s, 3H); MS m/z 529 (M+1).

reactant | 5-(4-{4-benzyloxyanilino}-6-quinazolinyl)-furan-3-carbaldehyde | 0.6 equiv | C(C1=CC=CC=C1)OC1=CC=C(NC2=NC=NC3=CC=C(C=C23)C2=CC(=CO2)C=O)C=C1 | C26H19N3O3
reactant | 2-methanesulphonyl-ethylamine | 1 equiv | CS(=O)(=O)CCN | C3H9NO2S
product | N-[4-(benzyloxy)phenyl]-6-[4-({[2-(methanesulphonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C=1OC=C(C1)CNCCS(=O)(=O)C | C29H28N4O4S
